Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal pain and distention

 
Major Surgical or Invasive Procedure:
No surgical or invasive procedures on this admission

 
History of Present Illness:
HPI: ___ prior severe ulcerative colitis s/p lap abdominal
colectomy w end ileostomy (___), lap proctectomy w IPAA w
diverting loop ileostomy (___), & ileostomy takedown
(___) presents with nausea and abdominal pain that started
last night and continued this morning. He vomited today. He has
not had bowel movements since last night which is unusual for 
him
as he usually goes ___ times per day. He had a small bowel
obstruction with similar presentation in ___ (five months
ago) that resolved with expectant management. 

 
Past Medical History:
Past Medical History:
-Mood disorder NOS  
-Migraines  
-Ulcerative colitis 

Past Surgical History:
-Spinal fusion surgery for kyphoscoliosis (___)
-Sinus surgery (___)  
-Laparoscopic abdominal colectomy w end ileostomy ___, VP)
-Laparoscopic proctectomy w ileal pouch anal anastomosis & 
diverting loop ileostomy ___, VP)
-Ileostomy takedown ___, TC)

 
Social History:
___
Family History:
(unchanged)
-Sister has UC. 

 
Physical Exam:
Gen: NAD
CV: RRR
Pulm: nonlabored breathing on room air
abd: s, nt, nd
 
Pertinent Results:
___ 01:49PM   ___ COMMENTS-GREEN TOP 
___ 01:49PM   LACTATE-1.3
___ 01:40PM   WBC-8.1 RBC-5.04 HGB-13.4* HCT-42.5 MCV-84 
MCH-26.6 MCHC-31.5* RDW-13.8 RDWSD-42.5
___ 01:40PM   NEUTS-76.6* LYMPHS-16.6* MONOS-5.2 EOS-0.4* 
BASOS-0.2 IM ___ AbsNeut-6.21* AbsLymp-1.35 AbsMono-0.42 
AbsEos-0.03* AbsBaso-0.___ prior UC s/p lap abdominal colectomy w end ileostomy
(___), lap proctectomy w IPAA w diverting loop
___, & ileostomy takedown (___) with prior
admission for SBO that resolved non-operatively (___) now 
with
recurrent signs and symptoms of SBO. KUB confirmed the same. 
Upon admission, he was well appearing and non-toxic, labs 
unconcerning for bowel ischemia. He was  admitted to colorectal 
surgery for bowel rest. On HO1 he remained on bowel rest, doing 
well. He began having bowel movements and was advanced to a 
clear diet. On HO2, he was advanced to a regular diet, tolerated 
it well. He was ambulating, pain well controlled, vitals stable, 
passing flatus and bowel movements. He was safe and stable for 
discharge. All appropriate follow up appointments and 
instructions were given.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 4 mg PO DAILY 
2. BuPROPion (Sustained Release) 100 mg PO BID 
3. LamoTRIgine 300 mg PO QHS 
4. LOPERamide ___ mg PO QID:PRN loose stools 
5. Psyllium Wafer 1 WAF PO DAILY:PRN loose stools 

 
Discharge Medications:
1.  ARIPiprazole 4 mg PO DAILY  
2.  BuPROPion (Sustained Release) 100 mg PO BID  
3.  LamoTRIgine 300 mg PO QHS  
4.  LOPERamide ___ mg PO QID:PRN loose stools  
5.  Psyllium Wafer 1 WAF PO DAILY:PRN loose stools  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for a small bowel obstruction. 
You were given bowel rest and intravenous fluids. Fortunately 
your obstruction resolved after conservative management and you 
did not require placement of a nasogastric tube or operative 
management. You are now tolerating a regular diet, passing gas 
and bowel movements, and your abdominal pain is resolved. You 
may return to all usual home medications. If you have mild 
abdominal pain, you may take Tylenol. If you find that you need 
more than Tylenol to control any abdominal pain in the next few 
days, please call us to discuss whether you might need to return 
to the hospital.

If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.

Our hope is that you will have a quick return to your life and 
usual activities. Thank you for allowing us to participate in 
your care!
 
Followup Instructions:
___